US06617339B1
3-(4-(1-(2(S),3-Dihydroxypropyloxycarbonyl)-1,2,5,6-tetrahydro-4-pyridinyl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one
3-(4-(1-(2,2-Dimethyl-1,3-dioxolan-4(S)-ylmethoxycarbonyl)-1,2,5,6-tetrahydro-4-pyridinyl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one (130 mg, 0.25 mmol) was dissolved in tetrahydrofuran (5 ml), treated with 2 M aqueous hydrochloric acid (2 ml), and stirred at ambient temperature for 72 hours. Excess potassium carbonate was added to remove acid and water, and the solution filtered. The filtrate was evaporated, and the residue purified by chromatography on a 10 g silica Biotage column, eluting with a gradient increasing in polarity from 0 to 10% MeOH in dichloromethane. Relevant fractions were combined and evaporated to give the desired product (103 mg). MS (ESP): 478 (MH+) for C22H24FN3O8.

reactant | 3-(4-(1-(2,2-Dimethyl-1,3-dioxolan-4(S)-ylmethoxycarbonyl)-1,2,5,6-tetrahydro-4-pyridinyl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one | 0.25 mmol, 130 mg | CC1(OC[C@H](O1)COC(=O)N1CC=C(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)COC1=NOC=C1)=O)F)C | C25H28FN3O8
reactant | hydrochloric acid | 2 M, 2 ml | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 3-(4-(1-(2(S),3-Dihydroxypropyloxycarbonyl)-1,2,5,6-tetrahydro-4-pyridinyl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one | 103 mg | O[C@H](COC(=O)N1CC=C(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)COC1=NOC=C1)=O)F)CO | C22H24FN3O8
